US04616028
2-Ethylcyclohexanol (1.6 moles, 204 g, 226 ml) was stirred in 3.21 of acetone at 0° C. and treated with 8N Jones reagent (prepared from 106.8 g of CrO3 suspended in 92 ml of concentrated sulfuric acid and diluted to 400 ml with water) until the orange color persisted (~430 ml). Isopropanol was then added to turn the solution green again after which it was poured into 2 l of ether. The product was washed with 6×500 ml of brine, dried over MgSO4 and stripped of solvent. Short path distillation (b.p. 80°-85° C. at 25 mm) afforded 184 g (1.46 moles, 91%) of 2-ethylcyclohexanone as a colorless oil.

reactant | 2-Ethylcyclohexanol | 1.6 moles, 226 ml, 204 g | C(C)C1C(CCCC1)O | C8H16O
reactant | acetone | CC(=O)C | C3H6O
reactant | Isopropanol | C(C)(C)O | C3H8O
reactant | ether | 2 l | CCOCC | C4H10O
solvent | Jones reagent | 8N, 92 ml, 106.8 g | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
product | 2-ethylcyclohexanone | 1.46 moles, 184 g, 91% | C(C)C1C(CCCC1)=O | C8H14O
